US06191280B1
3-Chloro-2-octylthio-5-trifluoromethylpyridine
At 23° C., 17.6 g (0.1166 mol) of n-octanethiol were added with stirring over a period of 5 minutes to a mixture of 25 g (0.1132 mol) of 97.8% pure 2,3-dichloro-5-trifluoromethylpyridine and 7 mg (0.1 mol %) of copper powder, and the mixture was stirred at 185° C. for 4 h. After cooling, the reaction mixture was partitioned between methylene chloride and water and the organic phase was dried and concentrated. 35.4 g (96.1% of theory) of the title compound of 24 n D

reactant | n-octanethiol | 0.1166 mol, 17.6 g | C(CCCCCCC)S | C8H18S
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.1132 mol, 25 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
catalyst | copper | 7 mg | [Cu] | Cu
product | 3-Chloro-2-octylthio-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)SCCCCCCCC | C14H19ClF3NS
